US04279912
100 mg of ethyl 6-chloroimidazo-[1,2-a]-quinoline-2-carboxylate were suspended in a mixture of 4.5 ml of ethanol and 2 ml of water and then 0.5 ml of N sodium hydroxide solution was added. The mixture was heated on a steam bath for 4 hours and the resulting solution was filtered then acidified with 0.5 ml of N hydrochloric acid and cooled to give colorless crystals of 6-chloroimidazo-[1,2-a]-quinoline-2-carboxylic acid monohydrate melting at 288°-289° C.

reactant | ethyl 6-chloroimidazo-[1,2-a]-quinoline-2-carboxylate | 100 mg | ClC1=C2C=CC=3N(C2=CC=C1)C=C(N3)C(=O)OCC | C14H11ClN2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 4.5 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 6-chloroimidazo-[1,2-a]-quinoline-2-carboxylic acid monohydrate | O.ClC1=C2C=CC=3N(C2=CC=C1)C=C(N3)C(=O)O | InChI=1S/C12H7ClN2O2.H2O/c13-8-2-1-3-10-7(8)4-5-11-14-9(12(16)17)6-15(10)11;/h1-6H,(H,16,17);1H2
